US09284284B2
a) 5-(2-Methoxy-ethoxy)-3-methyl-pyridine-2-carboxylic acid amide
5-Bromo-3-methyl-pyridine-2-carboxylic acid ethyl ester (3.3 g, 13.52 mmol) and CuI (0.515 g, 2.70 mmol) were dissolved in 2-methoxy-ethanol (10.29 g, 135 mmol) and DMF (2.5 ml). NaH (60%, 0.541 g, 13.52 mmol) was carefully added and the reaction mixture was warmed to 110° C. for 8 h. The reaction mixture was allowed to cool to rt and NH3 in EtOH (10%, 30 ml) was added. The reaction mixture was placed in an autoclave and heated to 100° C. for 20 h. The reaction mixture was cooled to rt, concentrated and purified by column chromatography (silica gel; DCM/0-4% i-Propanol) to give the desired product (1 g, 4.52 mmol).

reactant | 5-Bromo-3-methyl-pyridine-2-carboxylic acid ethyl ester | 13.52 mmol, 3.3 g | C(C)OC(=O)C1=NC=C(C=C1C)Br | C9H10BrNO2
reactant | 2-methoxy-ethanol | 135 mmol, 10.29 g | COCCO | C3H8O2
reactant | NaH | 13.52 mmol, 0.541 g | [H-].[Na+]
reactant | NH3 | N | H3N
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | EtOH | 30 ml | CCO | C2H6O
catalyst | CuI | 2.70 mmol, 0.515 g | [Cu]I
product | 5-(2-Methoxy-ethoxy)-3-methyl-pyridine-2-carboxylic acid amide | 4.52 mmol, 1 g | COCCOC=1C=C(C(=NC1)C(=O)N)C | C10H14N2O3
